Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission labs:
===============
___ 01:51AM BLOOD WBC-11.7* RBC-4.47* Hgb-13.7 Hct-39.5* 
MCV-88 MCH-30.6 MCHC-34.7 RDW-12.3 RDWSD-39.8 Plt ___
___ 01:51AM BLOOD Neuts-73.5* Lymphs-14.7* Monos-10.9 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-8.59* AbsLymp-1.72 
AbsMono-1.27* AbsEos-0.01* AbsBaso-0.05
___ 01:51AM BLOOD Glucose-102* UreaN-18 Creat-1.0 Na-123* 
K-4.0 Cl-92* HCO3-18* AnGap-13
___ 04:50PM BLOOD ALT-65* AST-147* CK(CPK)-6540* AlkPhos-48 
TotBili-1.0
___ 04:50PM BLOOD Calcium-9.8 Phos-3.7 Mg-2.2
___ 01:51AM BLOOD Osmolal-260*
___ 01:51AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
.
.
Notable labs:
============
___ 06:40AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 06:40AM BLOOD HCV Ab-POS*
___ 06:40AM BLOOD CHCV VL-PND

___ 10:45 AM Urine studies:
___ 206
___ Na < 20
.
.
Micro:
======
-___ UCx: no growth (final).
.
.
Imaging: 
========
-___ CXR: Impression: "no acute cardiopulmonary abnormality"

-___ Abd u/s
"IMPRESSION: No sonographic evidence of cirrhosis.  Mildly 
enlarged splenic size up to 13.3  cm.  No ascites. The 
gallbladder is collapsed and contains either a small amount of 
sludge or a 3 mm polyp.  An elective right upper quadrant 
ultrasound to evaluate the gallbladder could be considered with 
the patient fasting."
.
.
 
Brief Hospital Course:
# Hyponatremia: resolved
Was most likely hypovolemic hyponatremia given the history, 
urine studies and his excellent response to IVF volume 
resuscitation.

# Bilateral hip pain: resolved
# Rhabomyolysis: resolved
Unclear etiology, given the temperature recently unlikely to 
have had hyperthermia as cause for rhabdo, more likely prolonged 
exposure to hard surface/ground; could explain leg muscle 
cramps/pain he reported initially, which have resolved. CK ~6500 
on initial presentation, improved w/ IVF and now less than the 
threshold of 5000 that is typically associated with risk of ___. 
No longer requiring IVF and not having any leg pain. No further 
evaluation indicated at this time.

# Leukocytosis: mild, neutrophilic, new c/w ___ now 
resolved.
-CXR without focal abnormalities
-UA was clean with no evidence for inflammation/infection

# Transaminitis (AST >> ALT): improving
New compared with normal transaminases on ___. Improving 
since admission. He Denied any EtOH use since recent discharge 
and serum EtOH was undetectable on admission. Abdominal u/s 
without acute abnormalities to explain a transaminitis. 
Hepatitis panel was checked: Hep B panel pan-negative*, Hep A Ab 
negative, and Hep C Ab positive (as expected). Most likely 
etiology at this point is probably transaminitis from muscle 
breakdown / rhabdo. Improving and at this point nothing further 
to do while inpatient.
[] repeat LFTs in ~2 weeks

# Hep B non-immune
[] Please initiate Hep B vaccination series as outpatient

# Splenomegaly: mild, 13.3 cm on abd u/s
[] outpatient f/u

# HTN
In setting of hypovolemia he was borderline hypotensive and home 
amlodipine was held on ___, but as he is now volume replete 
with improved BP, it was felt reasonable to continue this home 
medication
-continued home amlodipine 10 mg daily

# Housing insecurity

# Schizophrenia: decompensated
-followed by DMH
-Psychiatry was consulted
-continued home Benztropine, Divalproex, Risperidone, & PRN 
Ativan
-was maintained on ___ without requiring 1:1 sitter
-initiated inpatient psychiatry bed search on ___
.
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (EXTended Release) 1500 mg PO QHS mood disorder 
2. OLANZapine 20 mg PO QHS 
3. amLODIPine 10 mg PO DAILY 
4. Benztropine Mesylate 1 mg PO QHS 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
6. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
7. LORazepam 1 mg PO DAILY:PRN severe anxiety, restlessness 
8. RisperiDONE 4 mg PO QHS psychosis 
9. RisperiDONE Long Acting Injection 25 mg IM EVERY 2 WEEKS (WE) 


 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Thiamine 100 mg PO DAILY  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  amLODIPine 10 mg PO DAILY  
5.  Benztropine Mesylate 1 mg PO QHS  
6.  Divalproex (EXTended Release) 1500 mg PO QHS mood disorder  
7.  LORazepam 1 mg PO DAILY:PRN severe anxiety, restlessness  
8.  OLANZapine 20 mg PO QHS  
9.  RisperiDONE Long Acting Injection 25 mg IM EVERY 2 WEEKS 
(WE)  
10.  RisperiDONE 4 mg PO QHS psychosis  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
# Hyponatremia: resolved
# Bilateral hip pain: resolved
# Rhabomyolysis: resolved
# Leukocytosis: mild, neutrophilic, new c/w ___ now 
resolved.
# Transaminitis (AST >> ALT): improving
# Hep B non-immune
# Splenomegaly: mild, 13.3 cm on abd u/s
# Schizophrenia: decompensated
# HTN
# Housing insecurity

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because you were were found to 
be severely dehydrated and had electrolyte abnormalities. These 
resolved with administration of IV fluids.  You are being 
discharged to an inpatient psychiatric facility to help treat 
your schizophrenia.  We wish you the best.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___